US05684087
9,9-bis-(4-hydroxyphenyl)-fluorene.
2,2-bis-(4-dihydroxyphenyl)-propane, 1,1-bis-(4-hydroxyphenyl)-3,3,5-trimethylcyclohexane and 1,1-bis-(4-hydroxyphenyl)-1-phenyl-ethane are particularly preferred.

reactant | 1,1-bis-(4-hydroxyphenyl)-3,3,5-trimethylcyclohexane | OC1=CC=C(C=C1)C1(CC(CC(C1)C)(C)C)C1=CC=C(C=C1)O | C21H26O2
reactant | 1,1-bis-(4-hydroxyphenyl)-1-phenyl-ethane | OC1=CC=C(C=C1)C(C)(C1=CC=CC=C1)C1=CC=C(C=C1)O | C20H18O2
product | 9,9-bis-(4-hydroxyphenyl)-fluorene | OC1=CC=C(C=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=C(C=C1)O | C25H18O2
